data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_306099_2,[C:1]([C:2]([H:10])([H:11])[H:12])(/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]/[H:9])([O:5][H:7])[H:8]>>[C:1]1([O:5][H:7])([H:8])[C:4]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[N:6]1[H:9],34.20063250000695
MR_461068_0,[C:1]([C:2]([N:5]([H:12])[H:13])([H:14])[H:15])([N:4]([H:10])[H:11])([O:6][N:3]([H:8])[H:9])[H:7]>>[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([O:6][C:2]([N:5]([H:12])[H:13])([H:14])[H:15])[H:7],56.09222499998765
MR_111340_1,[C:1]([N:3]([O:7][H:8])[H:9])(/[C:4]([N:5]([H:10])[H:11])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:3]([H:9])[C@:4]1([N:5]([H:10])[H:11])[C@:6]([C:2]([H:15])([H:16])[H:17])([O:7][H:8])[H:14],70.93448250000293
MR_1109_0,[C:1]([C:2]([O:3][H:5])=[O:4])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[O:4][H:5])([H:6])([H:7])[H:8],29.540189999984747
MR_7875_0,[C:1]([N:3](/[C:4](=[N:5]/[C:2]([H:11])([H:12])[H:13])[H:7])[H:6])([H:8])([H:9])[H:10]>>[C:1](/[N:3]=[C:4](\[N:5]([C:2]([H:11])([H:12])[H:13])[H:6])[H:7])([H:8])([H:9])[H:10],47.27083000000192
MR_43580_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([H:7])[C:3]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[O:6]1>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:5]([H:10])[H:11])=[O:6])([N:4]([H:8])[H:9])[H:7],46.76945749998367
MR_246709_1,[C:1]([C:2]([C:6](=[O:8])[H:13])([H:17])[H:18])(/[C:3]([N:4]([H:9])[H:10])=[C:7](/[N:5]([H:11])[H:12])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2]([H:17])([H:18])[C:3]1([N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])([C:6](=[O:8])[H:13])[H:16],53.33750000002283
MR_101517_1,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:5](\[C:6]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([C:7](=[C:8]([H:20])[H:21])[H:13])[H:12])[H:11])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:5](=[C:6](/[C:7](=[C:8]([H:20])[H:21])[H:13])[H:12])[H:11])[H:10],53.05575250002079
MR_430772_1,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([O:7][H:9])[C:6]1([H:16])[H:17]>>[C:1]([C:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])([O:7][H:9])[H:10],49.92515500000621
MR_606354_2,[C:1]([C:2]([N:5]([H:9])[H:10])([H:11])[H:12])([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[O:6][O:7][H:8]>>[C:1]([C:2]([N:5]([H:9])[H:10])([O:6][O:7][H:8])[H:11])([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[H:12],72.99456500000943
MR_385892_0,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([O:5][N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([N:4]([H:10])[H:11])([O:5][C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([O:6][H:8])[H:9],44.34981749999324
MR_353630_0,[C:1](=[C:2](\[N:4]([H:11])[H:12])[C:5](=[C:6]([H:14])[H:15])[H:13])(\[N:3]([H:9])[H:10])[O:7][H:8]>>[C@@:1]1([N:3]([H:9])[H:10])([O:7][H:8])[C:2]([N:4]([H:11])[H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15],44.409429999985406
MR_478260_0,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([N:5]([C:2](/[C:6]([C:8](=[O:10])[H:17])=[N:9]\[H:14])([H:15])[H:16])[N:7]([H:12])[H:13])[H:11]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:8](/[C:6]([C:2](/[N:5]=[N:7]/[H:13])([H:15])[H:16])=[N:9]/[H:14])([O:10][H:12])[H:17])[H:11],58.25898249997451
MR_518088_0,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:11])([C:3]([H:14])([H:15])[H:16])([N:6]([O:8][H:9])[H:10])[N:7]([H:12])[H:13]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:11])[H:10])([N:7]([H:12])[H:13])[O:8][H:9],57.71494000002832
MR_373100_1,[C:1]([N:2]([N:5][O:7])[H:9])(/[C:3](=[N:6]\[O:4][H:8])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:2]([H:9])[C@@:3]1([N:6]([O:4][H:8])[N:5]=[O:7])[H:12],60.04861249998612
MR_151071_0,[C:1]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])([N:6]([C:2]([H:12])([H:13])[H:14])[C:3]([H:10])([H:11])[H:15])[C:7](=[O:8])[H:9]>>[C:1]1([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[C@:7]([N:6]([C:2]([H:12])([H:13])[H:14])[C:3]([H:10])([H:11])[H:15])([H:9])[O:8]1,59.05967249998611
MR_699153_0,[C:1]([C:3]([N:7]=[C:5]([H:15])[H:16])=[O:8])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:9])([O:6][H:10])[H:11]>>[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:9])=[O:8])([O:6][H:10])([N:7]=[C:5]([H:15])[H:16])[H:11],56.87283499997861
MR_103409_1,[C:1](/[C:3]([N:2]([O:6][H:7])[H:8])=[C:5](/[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[O:6][H:7])[C:5]([N:4]([H:9])[H:10])([H:8])[H:11])([H:12])([H:13])[H:14],60.95095749999075
MR_374581_0,[C:1]([C:4]1([C:2]([N:5]([H:9])[H:10])=[O:8])/[C:3](=[N:6]/[H:11])[N:7]1[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3](/[C:4]([C:2]([N:5]([H:9])[H:10])=[O:8])=[N:7]/[H:12])=[N:6]/[H:11])([H:13])([H:14])[H:15],64.99582250001552
